US08895544B2
6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole
To a solution of 6-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole (WO 2010/027500, 2.25 g, 8.0 mmol) and 2-(2-ethyl-5-fluoro-4-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Preparation 13, 2.24 g, 8.0 mmol) in dioxane (32 mL) was added potassium phosphate (5.1 g, 24 mmol) as a solution in water (8 mL). The reaction mixture was degassed with nitrogen and treated with tetrakis (triphenylphosphine) palladium(0) (1.85 g, 1.6 mmol). The reaction mixture was heated at 110° C. for 18 hours, cooled to room temperature and filtered through a pad of Arbocel®, washing with EtOAc (2×100 mL). The filtrate was washed with water (100 mL), dried over MgSO4 and concentrated in vacuo. The crude material was purified by column chromatography on silica gel eluting with 10% EtOAc in heptane to give the title compound as a white solid (2.024 g) in a 71% yield.

reactant | 6-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole | 8.0 mmol, 2.25 g | BrC1=CC=C2C=NN(C2=C1)C1OCCCC1 | C12H13BrN2O
reactant | 2-(2-ethyl-5-fluoro-4-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 8.0 mmol, 2.24 g | C(C)C1=C(C=C(C(=C1)OC)F)B1OC(C(O1)(C)C)(C)C | C15H22BFO3
reactant | potassium phosphate | 24 mmol, 5.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 32 mL | O1CCOCC1 | C4H8O2
solvent | water | 8 mL | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium(0) | 1.6 mmol, 1.85 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole | 2.024 g, 71% yield | C(C)C1=C(C=C(C(=C1)OC)F)C1=CC=C2C=NN(C2=C1)C1OCCCC1 | C21H23FN2O2
